US07307075B2
1-[3-(4-Butylpiperidin-1-yl)propyl]-6-methyl-1H-quinolin-2-one (107LH32-A)
A 4 mL vial was charged with 6-methyl-1H-quinolin-2- one (0.110 g, 0.71 mmol), dry DMF (2 mL) and NaH (60% in oil, 0.031 g, 0.78 mmol). The mixture was shaken under a N2 atmosphere for 1 h, and thereafter 1-bromo-3-chloropropane (70 μl, 0.71 mmol) was added. The reaction was shaken at rt for 20 h and then poured into diethyl ether (25 mL) and washed with water (15 mL). The ether phase was washed with water (15 mL) and brine (15 mL). The organic phase was dried over Na2SO4, and concentrated under reduced pressure. The residue was diluted with CH3CN (2 mL) and KI (0.160 g, 1.0 mmol), K2CO3 (0.140 g, 1.0 mmol) and 4-butylpiperidine (0.100 g, 0.71 mmol) was added. The mixture was shaken at 50° C. for 72 h and then poured onto The compound EtOAc (25 mL) and water (15 mL). The water phase was extracted (2×25 mL) and the combined organic phase was dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by flash CC (SiO2; EtOAc/MeOH 4:1) followed by prep RP-HPLC to give the title compound (0.058 g, 23%). 1H NMR (CD3OD) δ 7.78 (d, J=9.2 Hz, 1H), 7.52-7.40 (m, 3H), 6.60 (d, J=9.2 Hz, 1 H), 4.3 (t, J=7.6 Hz, 2H), 2.92-2.2.85 (m, 2H), 2.50-2.39 (m, 2H), 2.39 (s, 3H), 1.99-1.84 (m, 4H), 1.69-1.61 (m, 2H), 1.35-1.11 (m, 9H), 0.88 (t, J=6.8 Hz); 13C NMR (CD3OD) δ 162.9, 140.1, 137.0, 132.5, 132.3, 128.8, 121.4, 120.2, 114.6, 55.8, 53.9, 40.6, 36.2, 35.7, 32.0, 28.9, 24.8, 22.8, 19.4, 13.3; HPLC-MS (ammonium acetate) [M+H]+=341.3.

reactant | 6-methyl-1H-quinolin-2- one | 0.71 mmol, 0.110 g | CC=1C=C2C=CC(NC2=CC1)=O | C10H9NO
reactant | NaH | 0.78 mmol, 0.031 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.71 mmol, 70 μl | BrCCCCl | C3H6BrCl
reactant | K2CO3 | 1.0 mmol, 0.140 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-butylpiperidine | 0.71 mmol, 0.100 g | C(CCC)C1CCNCC1 | C9H19N
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | water | 15 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[3-(4-Butylpiperidin-1-yl)propyl]-6-methyl-1H-quinolin-2-one | 0.058 g, 23% | C(CCC)C1CCN(CC1)CCCN1C(C=CC2=CC(=CC=C12)C)=O | C22H32N2O
